.SUBCKT LTC1440    1    2    200  300  101  400    420  350
*
CIN 2 1 5.0000e-012
RIN 2 1 1.0000e+009
EOFF 3 1 POLY(1) 360 300 3.0e-003 1.0
ROFF 3 1 1.0000e+009
IB1 401 1 DC 1.2500e-011
IB2 401 2 DC 7.5000e-012
G1 401 20 3 2 2.1036e+001
R1 20 401 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 401 DC 2.5243e+003
V1N 22 401 DC -2.5243e+003
G2 401 23 20 401 1.0000e-003
R2 23 401 1.0000e+003
R21 27 401 4.5283e+002
D2 27 23 DX
CD 23 401 4.7961e-009
GCM1 401 19 POLY(2) 1 401 2 401 0 5.0000e-004 5.0000e-004
RCM1 18 401 1.000000e+003
RCM2 19 401 1.0000e+006
LCM 19 18 3.1831e-002
GCM2 401 20 19 401 2.0115e-003
G3 401 24 23 401 1.0000e-003
R3 24 401 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 401 DC 1.5257e+002
V3N 26 401 DC -1.5257e+002
G41 401 30 24 401 1.0000e-003
R41 30 401 1.0000e+003
CR 30 401 3.0163e-008
D4P 30 32 DX
D4N 33 30 DX
E4P 32 401 POLY(1) 200 401  -6.7896e-001 5.0000e-001 
E4N 401 33 POLY(1) 200 401  -6.7896e-001 5.0000e-001 
G5 401 40 30 401 1.0000e-003
R5 40 401 1.0000e+003
LA 40 41 1.2732e-005
CA 41 401 7.9577e-011
GO12 401 43 41 401 5.2083e-002
RO12 43 401 1.9200e+001
EOUT1 44 43 33 401 -1.0
VOUT1 101 44 DC 6.749441e-001
ROUT1 101 401 1.0000e+009
IVDD 200 0 DC 2.0e-006
RVSS 300 0 1.0000e+009
EGND 401 0 400 0 1.0000e+000
RGND 400 0 1.0000e+009
FA1 51 0 VOUT1 -1
DAP 200 51 DX
DAN 53 300 DX
RGV 52 53 10
EGV 51 52 POLY(1) 200 300 -0.75 1.0
IREF 300 410 1.1819E-3
RREF 410 300 1.0E3  TC=-4.6E-5
EBGR1 411 300 410 300 1.0
RBGR1 411 412 0.4
VBGR1 412 420 DC 0
RBGR2 420 300 1.0E9
FBGR1 300 413 VBGR1 1.0
RBGR3 413 300 1.0E3
DBGR1 413 414 DY
VBGR2 414 300 DC 2.3
FSOURCE 410 300 VBGR2 3.2
FBGR2 300 415 VBGR1 250
RBGR4 415 300 1.0E3
DBGR2 415 416 DY
RBGR5 416 300  10
DBGR3 417 415 DY
VBGR3 417 300 DC -1.0
FSINK 300 410 POLY(1) VBGR3 0 0 1.2
RINH 350 351 200
IHYST 351 400 20.0E-12
DINH1 300 351 DY
DINH2 351 352 DY
EINH 352 300  420 300  1.0
GHYST1 353 300 351 300 1.0E-3
GDIFFH 300 353 420 300 1.0E-3
CHYST 353 300 2.2E-8
RHYST1 353 300 1.0E3
*DHYP 353 354 DY
*VHYP 354 300 DC -0.5
RNORM1 200 356 1.0E9
RNORM2 400 356 1.0E9
GNORM 300 357 101 356 1.0
CNORM 357 300 2.2E-9
RNORM3  357 300 1.0E3
DNORM1 357 358 DY
VNORM1 358 300 DC 0.075
DNORM2 359 357 DY
VNORM2 359 300 DC -0.075
GMULT 300 360 POLY(2) 357 300 353 300 0 0 0 0 1.0E-3
RMULT 360 300 1.0E3
.MODEL DX  D IS=1e-12 RS=0 XTI=0
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
.MODEL D3P  D IS=1e-12 TT=7.4892e-007 CJO=0.3E-12 RS=0 XTI=0
.MODEL D3N  D IS=1e-12 TT=3.6910e-006 CJO=0.3E-12 RS=0 XTI=0
.MODEL DOUT  D IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1
.ENDS LTC1440
